US07501427B2
N4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenyl]-N6-(1-methyl-pyrrolidin-2-ylidene)-quinazoline-4,6-diamine is prepared by reacting N4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenyl]-quinazoline-4,6-diamine and 1-methyl-pyrrolidin-2-one. Phosphorous oxychloride (0.047 g, 0.30 mmol) is added to a stirred solution of 1-methyl-pyrrolidin-2-one (0.63 g, 0.63 mmol) in methylene chloride (3 ml) at −78° C. under N2 (Bullock et al WO0220526). After 10 minutes, the reaction mixture is warmed to room temperature and stirred for 1 hour. N4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenyl]-quinazoline-4,6-diamine (0.100 g, 0.253 mmol) is added followed by Et3N (0.031 g, 0.30 mmol). After 16 hours, the reaction mixture is quenched with saturated aqueous Na2CO3, the layers separated and the aqueous layer extracted with methylene chloride. The combined organic extracts are dried (Na2SO4), concentrated and purified on a silica gel column (10:2:1 EtOAc:hexanes:MeOH with 0.3% NH4OH solution) to yield 0.010 g (8%) N4-[3-chloro-4-(3-fluoro-benzyloxy)-phenyl]-N6-(1-methyl-pyrrolidin-2-ylidene)-quinazoline-4,6-diamine. MS APCI (+) m/z 476, 478 (M+1, Cl pattern) detected; 1H NMR (400 MHz, MeOH4) δ 8.42 (s, 1 H), 7.89 (s, 2 H), 7.77 (d, 1 H), 7.58 (m, 2 H), 7.33 (m, 3 H), 7.18 (d, 1 H), 7.04 (t, 1 H), 5.20 (s, 2 H), 3.60 (t, 2 H), 2.61 (t, 2 H), 2.03 (m, 2 H).

reactant | N4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenyl]-quinazoline-4,6-diamine | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC=C(C=C12)N | C21H16ClFN4O
reactant | 1-methyl-pyrrolidin-2-one | CN1C(CCC1)=O | C5H9NO
reactant | Phosphorous oxychloride | 0.30 mmol, 0.047 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-methyl-pyrrolidin-2-one | 0.63 mmol, 0.63 g | CN1C(CCC1)=O | C5H9NO
reactant | N4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenyl]-quinazoline-4,6-diamine | 0.253 mmol, 0.100 g | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC=C(C=C12)N | C21H16ClFN4O
reactant | Et3N | 0.30 mmol, 0.031 g | CCN(CC)CC | C6H15N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | N4-[3-chloro-4-(3-fluoro-benzyloxy)-phenyl]-N6-(1-methyl-pyrrolidin-2-ylidene)-quinazoline-4,6-diamine | 0.010 g, 8% | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC=C(C=C12)N=C1N(CCC1)C | C26H23ClFN5O
